US05437815
51.2 g of sodium nitrite was dissolved in 390 ml of sulfuric acid, and 454 ml of acetic acid was added thereto at 10° C. or lower. The solution was kept at 20° to 25° C., and 124 g of 2-fluoro-4-iodoaniline was added thereto over a period of one hour and stirred for 2 hours. The solution was dropwise added to a solution of 130 g of copper(I) bromide as dissolved in 390 ml of 48% hydrobromic acid and stirred overnight. Next, 1000 ml of water was added to this, which was then extracted with chloroform and washed three times with water. Chloroform was removed by distillation, and the residue was distilled under reduced pressure (b.p. 120° to 125° C./13 mmHg) and recrystallized from methanol to obtain 114 g of 1-bromo-2-fluoro-4-iodobenzene.

reactant | sodium nitrite | 51.2 g | N(=O)[O-].[Na+]
reactant | acetic acid | 454 ml | C(C)(=O)O | C2H4O2
reactant | 2-fluoro-4-iodoaniline | 124 g | FC1=C(N)C=CC(=C1)I | C6H5FIN
reactant | water | 1000 ml | O | H2O
reactant | hydrobromic acid | 390 ml | Br | BrH
solvent | sulfuric acid | 390 ml | S(O)(O)(=O)=O | H2O4S
catalyst | copper(I) bromide | 130 g | [Cu]Br
product | 1-bromo-2-fluoro-4-iodobenzene | 114 g | BrC1=C(C=C(C=C1)I)F | C6H3BrFI
